US07645776B2
3-(5-Oxo-1,5-dihydro-[1,2,4]triazol-4-yl)-benzoic acid
13 mmol of methyl-3-aminobenzoate were dissolved in 20 ml MeOH. 12 mmol of trimethylorthoformiate, 12 mmol methyl hydrazinocarboxylate and 50 mg of p-toluenesulfonic acid were added. The suspension was heated for 48 h to 65° C. 37 mmol of sodium methanolate were added and stirred for additional 2 h. The organic layer was reduced and water was added. The solution was acidified to pH=1 and the resulting solid filtered off to result in 5.7 mmol of product. MS(ISO): 204.2 (M−H+)

reactant | methyl-3-aminobenzoate | 13 mmol | COC(C1=CC(=CC=C1)N)=O | C8H9NO2
reactant | methyl hydrazinocarboxylate | 12 mmol | N(N)C(=O)OC | C2H6N2O2
reactant | sodium methanolate | 37 mmol | C[O-].[Na+]
reactant | water | O | H2O
solvent | MeOH | 20 ml | CO | CH4O
catalyst | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3-(5-Oxo-1,5-dihydro-[1,2,4]triazol-4-yl)-benzoic acid | 5.7 mmol | O=C1N(C=NN1)C=1C=C(C(=O)O)C=CC1 | C9H7N3O3
